US06410539B1
A solution of the 1-methylpiperidin-4-yl 2-tert-butoxycarbonylamino-4-methylsulfanylbutyrate (3.8 g; 11 mmol) in dichloromethane (5 ml) and TFA (10 ml) was stirred at ambient temperature for 2 hours. After evaporation to dryness, the residue was redissolved in dichloromethane and treated with a solution of 3.8 M HCl in ether (6 ml) at 0° C. The resulting precipitate was triturated with ether and filtrated to give L-methionine (N-methylpiperidin-4-yl) ester.

reactant | 1-methylpiperidin-4-yl 2-tert-butoxycarbonylamino-4-methylsulfanylbutyrate | 11 mmol, 3.8 g | C(C)(C)(C)OC(=O)NC(C(=O)OC1CCN(CC1)C)CCSC | C16H30N2O4S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | L-methionine (N-methylpiperidin-4-yl) ester | CN1CCC(CC1)OC([C@@H](N)CCSC)=O | C11H22N2O2S
